US08084620B2
Step 1 Di-tert-butyl dicarbonate (28.90 g, 132.4 mmol) was added portionwise to a suspension of 2-amino-5-bromothiazole hydrobromide (28.64 g, 110.3 mmol) in pyridine (100 mL) over 20 min at rt. The mixture was stirred at rt overnight, then was concentrated. The residue was partitioned between 0.5 M hydrochloric acid (200 mL) and EtOAc (200 mL). The organic layer was dried and concentrated, and the residue was filtered through a pad of silica gel using 90:10 hexane-EtOAc. The filtrate was concentrated to give tert-butyl-5-bromothiazol-2-ylcarbamate as a white solid (19.5 g, 63%). 1H NMR (400 MHz, chloroform-d) δ 7.27 (s, 1H) 1.60 (s, 9H). Mass spectrum m/z 223, 225 (M+H)+.

reactant | Di-tert-butyl dicarbonate | 132.4 mmol, 28.90 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-amino-5-bromothiazole hydrobromide | 110.3 mmol, 28.64 g | Br.NC=1SC(=CN1)Br
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | tert-butyl-5-bromothiazol-2-ylcarbamate | 19.5 g, 63% | C(C)(C)(C)OC(NC=1SC(=CN1)Br)=O | C8H11BrN2O2S
